US07968595B2
A suspension of 3-bromo-4,5-dimethoxybenzaldehyde (1500 g, 6.12 moles, 1.1 eq) and malononitrile (404 g, 6.12 moles, 1.1 eq) in ethanol 99% (12 L, 7 volumes) was stirred at room temperature under N2(g). Dimethylisopropylamine (339 mL, 2.78 moles, 0.5 eq) was added slowly (which caused an exotherm from about 14° C. to about 26° C.) and the reaction mixture was stirred at room temperature for about 2 h under N2(g). The yellow thick suspension was analyzed by HPLC to monitor the appearance of the Knoevenagel intermediate and the disappearance of the aldehyde. 2,3-Diaminophenol (690.66 g, 5.56 moles, 1 eq) was added and the reaction mixture was stirred at room temperature overnight. The resulting beige-brown suspension was filtered and the cake was washed with cold CH2Cl2 (3000 mL). The solids were dried under vacuum to give 2,7,8-triamino-4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-4H-chromene (1.9 kg, 82% yield). 1H NMR (300 MHz) (DMSO-d6, ppm): 3.71 (s, 3H), 3.82 (s, 3H), 4.43 (s, 2H), 4.56 (s, 1H), 4.70 (s, 2H), 6.09 (d, J=8 Hz, 1H), 6.26 (d, J=8 Hz, 1H), 6.76 (s, 2H), 6.78 (d, J=2 Hz, 1H), 6.90 (d, J=2 Hz, 1H).

reactant | 3-bromo-4,5-dimethoxybenzaldehyde | 6.12 moles, 1500 g, 1.1 eq | BrC=1C=C(C=O)C=C(C1OC)OC | C9H9BrO3
reactant | malononitrile | 6.12 moles, 404 g, 1.1 eq | C(CC#N)#N | C3H2N2
reactant | Dimethylisopropylamine | 2.78 moles, 339 mL, 0.5 eq | CN(C(C)C)C | C5H13N
reactant | 2,3-Diaminophenol | 5.56 moles, 690.66 g, 1 eq | NC1=C(C=CC=C1N)O | C6H8N2O
solvent | ethanol | 12 L | C(C)O | C2H6O
product | 2,7,8-triamino-4-(3-bromo-4,5-dimethoxy-phenyl)-3-cyano-4H-chromene | 1.9 kg, 82% yield | NC=1OC2=C(C(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)N)N | C18H17BrN4O3
